US04327026
7.15 g of potassium carbonate are added to a solution of 7.15 g (23.04 mmol) of 7-acetyl-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-2H-1,4-benzodiazepin-2-one and 15 ml of methyl iodide in 300 ml of acetone and the mixture is stirred at room temperature for 21 hours. The insoluble material is filtered off and the solution is evaporated in vacuo. The residue is taken up in methylene chloride, washed with water, dried and evaporated. From cyclohexane there is obtained 7-acetyl-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one of melting point 65°.

reactant | potassium carbonate | 7.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-acetyl-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-2H-1,4-benzodiazepin-2-one | 23.04 mmol, 7.15 g | C(C)(=O)C=1C=CC2=C(C(=NC(C(N2)=O)C)C2=C(C=CC=C2)F)C1 | C18H15FN2O2
reactant | methyl iodide | 15 ml | CI | CH3I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 7-acetyl-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | C(C)(=O)C=1C=CC2=C(C(=NC(C(N2C)=O)C)C2=C(C=CC=C2)F)C1 | C19H17FN2O2
